US04608384
105 g of crude 2,5-diethoxycarbonyl-3-methyl-4-parachlorobenzoylthieno[2,3-b]pyrrole are heated at reflux in a mixture of 1 liter of ethanol and 1 liter of a normal solution of sodium hydroxide until complete saponification. The ethanol is then eliminated by distillation on a water bath. The aqueous solution is filtered and then acidified. The resulting precipitate is collected by filtration, washed with water, and dried with air and then in vacuo. In this manner, 92 g of crude 2,5-dicarboxy-3-methyl-4-parachlorobenzoylthieno[2,3-b]pyrrole are obtained, which is used in subsequent syntheses without further purification. The following were obtained in the same manner:

reactant | 2,5-diethoxycarbonyl-3-methyl-4-parachlorobenzoylthieno[2,3-b]pyrrole | 105 g | C(C)OC(=O)C1=C(C2=C(NC(=C2C(C2=CC=C(C=C2)Cl)=O)C(=O)OCC)S1)C | C20H18ClNO5S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 2,5-dicarboxy-3-methyl-4-parachlorobenzoylthieno[2,3-b]pyrrole | 92 g | C(=O)(O)C1=C(C2=C(NC(=C2C(C2=CC=C(C=C2)Cl)=O)C(=O)O)S1)C | C16H10ClNO5S
